US07056917B2
(B) N8-(4-Isopropyl-1,3-thiazol-2-yl)-4-oxo-3-(2H-1,2,3,4-tetrazol-5-yl)-4H-pyrido-[1,2-a]pyrimidine-8-carboxamide
N8-(4-Isopropyl-1,3-thiazol-2-yl)-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide (330 mg, 0.66 mmol) was added with trifluoroacetic acid (10 ml) at room temperature and stirred for 3 days. The reaction solution was poured into ice water, and the deposited yellow crystals were collected by filtration, washed with water, then dissolved in chloroform and ethanol, and concentrated under reduced pressure. The resulting yellow crystals were suspended in a small amount of ethanol, and the crystals were taken by filtration and washed with diethyl ether to obtain 54 mg (21% for the two steps) of the title compound as yellow crystals.

reactant | N8-(4-Isopropyl-1,3-thiazol-2-yl)-3-[2-(4-methoxybenzyl)-2H-1,2,3,4-tetrazol-5-yl]-4-oxo-4H-pyrido[1,2-a]pyrimidine-8-carboxamide | 0.66 mmol, 330 mg | C(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C(=CN2)C=2N=NN(N2)CC2=CC=C(C=C2)OC)=O)C=C1 | C24H22N8O3S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N8-(4-Isopropyl-1,3-thiazol-2-yl)-4-oxo-3-(2H-1,2,3,4-tetrazol-5-yl)-4H-pyrido-[1,2-a]pyrimidine-8-carboxamide | C(C)(C)C=1N=C(SC1)NC(=O)C1=CC=2N(C(C(=CN2)C=2N=NNN2)=O)C=C1 | C16H14N8O2S
